### PR TITLE
Lebesgue Stieltjes measure

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

This is an attempt at generalizing `lebesgue_mesure.v`.
RFC, FYI @hoheinzollern @IshiguroYoshihiro
We have only replayed the first part so far and plan to work on proving more properties soon. 
Co-authored-by: @t6s

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by zstone1** [comment]
I've just checked out the lemma statements (not the proofs), and it looks pretty neat. The existing `hlength_measure` canonical instance provides a reasonably nice interface for it. And `Hahn_ext_measure`. One thing that makes me particularly happy about this is I _think_ I can use this to state "spectral theorem". But I'm not 100% sure if it's general enough. That's something I'll look into shortly. In the meanwhile, I have only one question about this work. You carry around the `(ndf : {homo f : x y / (x <= y)%R}) (rcf : right_continuous f` conditions a lot. Which is fine while writing the proofs, but I can imagine this generating a lot of annoying side conditions when using them. Is there a nice way to package that up? Would a canonical structure for this make sense? Perhaps it's too cumbersome.

File: theories/lebesgue_stieltjes_measure.v [hunk 1]
```diff
@@ -0,0 +1,446 @@
...
+
+Local Open Scope classical_set_scope.
+Local Open Scope ring_scope.
+
+(* TODO: move *)
+Notation right_continuous f :=
+  (forall x, f%function @ at_right x --> f%function x).
+
+Lemma nondecreasing_right_continuousP (R : realType) (a : R) (e : R)
+    (f : R -> R) (ndf : {homo f : x y / x <= y}) (rcf : (right_continuous f)) :
```
Comment (CohenCyril) [inline theories/lebesgue_stieltjes_measure.v:33]: `ndf` and `rcf` could be combined and declared as a structure.

File: theories/lebesgue_stieltjes_measure.v [hunk 2]
```diff
@@ -0,0 +1,468 @@
...
+(* TODO: move *)
+Notation right_continuous f :=
+  (forall x, f%function @ at_right x --> f%function x).
+
+HB.mixin Record isCumulative (R : realType) (f : R -> R) := {
+  cumulative_is_nondecreasing : {homo f : x y / x <= y} ;
+  cumulative_is_right_continuous : right_continuous f }.
+
+#[short(type=cumulative)]
+HB.structure Definition CF (R : realType) := { f of isCumulative R f }.
```
Comment (zstone1) [inline theories/lebesgue_stieltjes_measure.v:37]: `CF` is probably too short a name. Likely to conflict with something in the future. `CumulativeFun` may be sufficient.

File: theories/lebesgue_stieltjes_measure.v [hunk 3]
```diff
@@ -0,0 +1,468 @@
...
+
+Arguments cumulative_is_nondecreasing {R} _.
+Arguments cumulative_is_right_continuous {R} _.
+
+Lemma nondecreasing_right_continuousP (R : realType) (a : R) (e : R)
```
Comment (zstone1) [inline theories/lebesgue_stieltjes_measure.v:42]: why not make `e : {posnum R}` as well?

File: theories/lebesgue_stieltjes_measure.v [hunk 4]
```diff
@@ -0,0 +1,468 @@
...
+Unset Strict Implicit.
+Unset Printing Implicit Defensive.
+Import Order.TTheory GRing.Theory Num.Def Num.Theory.
+Import numFieldTopology.Exports.
+
+Local Open Scope classical_set_scope.
+Local Open Scope ring_scope.
+
+(* TODO: move *)
+Notation right_continuous f :=
```
Comment (zstone1) [inline theories/lebesgue_stieltjes_measure.v:29]: Would it perhaps be useful to have `R with the "right-sided" topology` be a dedicated alias for `R`? Wikipedia calls R with this topology "the Sorgenfrey line".

File: theories/lebesgue_stieltjes_measure.v [hunk 5]
```diff
@@ -0,0 +1,468 @@
...
+Proof.
+move=> a b /le_Rhull /(le_hlength_itv ndf).
+by rewrite (hlength_Rhull a) (hlength_Rhull b).
+Qed.
+
+End hlength.
+Arguments hlength {R}.
+#[global] Hint Extern 0 (0%:E <= hlength _) => solve[apply: hlength_ge0] : core.
+
+Section itv_semiRingOfSets.
```
Comment (zstone1) [inline theories/lebesgue_stieltjes_measure.v:205]: Is the plan to eventually replace all the semiring and sigma_sub_additive stuff in `lebesgue_measure`? Would we need anything other than a `IsCumulative` instance for the identity function?

**Review by zstone1 — COMMENTED** [review]
A few nitpicks and questions. The only meaningful change to consider would be explicitly building the Sogenfrey Line (in `realfun.v`?) instead of the "right_continuous" predicate. It won't change the proofs much either way, so it's easy to deal with it later. Up to you.

File: theories/lebesgue_stieltjes_measure.v (hunk 3 above)
Comment (hoheinzollern) [reply theories/lebesgue_stieltjes_measure.v:42]: This should be fixed in #764

Comment (CohenCyril) [reply theories/lebesgue_stieltjes_measure.v:42]: I recommend not. In the current state of affairs, `0 < e` sub-goals can be automatically discharged when `e` is canonically a  `{posnum R}`, but when it is not canonical, we still want a subgoal to prove. If you switch the statement to a quantification on a `{posnum R}` you force the lemma to be applied with a canonical, and it becomes heavy to do a partial application with the right `e`. So we always prefer hyporheses of the form `forall e : R, 0 < e -> ...` except for canonical declarations of positivity. The proofs then start with a `move=> _/posnumP[e]`.
_(Note that this might be updated with the evolution of design patterns for subsets in the distant future)_

File: theories/lebesgue_stieltjes_measure.v (hunk 4 above)
Comment (CohenCyril) [reply theories/lebesgue_stieltjes_measure.v:29]: I did not know that! Reaally nice abstraction :two_hearts:

File: theories/lebesgue_stieltjes_measure.v (hunk 5 above)
Comment (CohenCyril) [reply theories/lebesgue_stieltjes_measure.v:205]: I do not understand why you mean by "replace all the semirings" ?

File: theories/lebesgue_stieltjes_measure.v (hunk 3 above)
Comment (zstone1) [reply theories/lebesgue_stieltjes_measure.v:42]: Oh, that does make sense. Just like taking `Filter F` as a separate argument in topology. When defining new structures to follow this pattern, I see four things are needed

1. A bundled structure (like {posnum R})
2. A predicate with the same information (like 0<e or Filter F)
3. A way to bundle them during introduction (like posnumP)
4. A hint or something that will automatically solve for the property

Is this a complete description of the design?

File: theories/lebesgue_stieltjes_measure.v (hunk 5 above)
Comment (zstone1) [reply theories/lebesgue_stieltjes_measure.v:205]: Oh, sorry, I should have been more clear. In `lebesgue_measure.v`, we have separate, less general, definitions of `hlength`, `hlength_sigma_sub_additive` and `hlength_semi_additive`. So I'm hoping that there's a long-term plan to delete the stuff from `lebesgue_measure.v`. I believe we can define lebesgue measure as "the lebesgue-stieltjes measure of the identity". But I haven't thought through all the details.

Comment (affeldt-aist) [reply theories/lebesgue_stieltjes_measure.v:205]: That's indeed the intent, though I would like to keep the simpler Lebesgue measure around.

Comment (affeldt-aist) [reply theories/lebesgue_stieltjes_measure.v:205]: As for `isCumulative`: maybe to define cumulative distribution functions.

File: theories/lebesgue_stieltjes_measure.v (hunk 3 above)
Comment (CohenCyril) [reply theories/lebesgue_stieltjes_measure.v:42]: I think you summed it up pretty well, although the picture is not always (yet) complete (e.g. step 3. is missing for filters).

Comment (CohenCyril) [reply theories/lebesgue_stieltjes_measure.v:42]: PS: with some work in the next few month I hope to make 1. and 2. equivalent so that 3. is not necessary anymore and that 4. always works with the same mechanizm.

File: theories/lebesgue_stieltjes_measure.v [hunk 6]
```diff
@@ -0,0 +1,521 @@
...
+(* TODO: move and use in lebesgue_measure.v? *)
+Lemma le_inf (R : realType) (S1 S2 : set R) :
+  -%R @` S2 `<=` down (-%R @` S1) -> nonempty S2 -> has_inf S1
+    -> (inf S1 <= inf S2)%R.
+Proof.
+move=> S21 S12 S1i; rewrite ler_oppl opprK le_sup// ?has_inf_supN//.
+exact/nonemptyN.
+Qed.
+
+Definition EFinf {R : numDomainType} (f : R -> R) : \bar R -> \bar R :=
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:85]: rename to `funEFin`?

**Comment by affeldt-aist** [comment]
It might be a good timing to approve this PR. @zstone1 ? @CohenCyril 
The changelog and the PR should be up-to-date.
To summarize, the construction of the Lebesgue measure has been generalized to the Lebesgue Stieltjes measure
but the original construction of the Lebesgue measure has been kept in a module.
We have not tried to rework the theory of the Lebesgue measure in this PR, just a straightforward generalization.
The theory of the Lebesgue Stieltjes measure will soon be developed further and there are other lemmas
that use the Lebesgue measure in other pending PRs so we will have occasions to come back to the code before
the next release.
The comment about the Sorgenfrey line has been moved to an issue so that we do not forget.

**Comment by affeldt-aist** [comment]
There should be 3 CI errors that are unrelated.

File: theories/lebesgue_stieltjes_measure.v [hunk 7]
```diff
@@ -0,0 +1,503 @@
...
+Import numFieldTopology.Exports.
+
+Local Open Scope classical_set_scope.
+Local Open Scope ring_scope.
+
+Reserved Notation "R .-ocitv" (at level 1, format "R .-ocitv").
+Reserved Notation "R .-ocitv.-measurable"
+ (at level 2, format "R .-ocitv.-measurable").
+
+(* TODO: move? *)
```
Comment (t6s) [inline theories/lebesgue_stieltjes_measure.v:49]: It would be nice to have a file for topologies on the real line and the Euclidean planes, like "real_topology.v".

**Review by t6s — APPROVED** [review]

File: theories/lebesgue_stieltjes_measure.v [hunk 8]
```diff
@@ -0,0 +1,503 @@
...
+(*          cumulative R == type of non-decreasing, right-continuous          *)
+(*                          functions (with R : numFieldType)                 *)
+(*                          The HB class is Cumulative.                       *)
+(*                          instance: idfun                                   *)
+(*          ocitv_type R == alias for R : realType                            *)
+(*                 ocitv == set of open-closed intervals ]x, y] where         *)
+(*                          x and y are real numbers                          *)
+(*              R.-ocitv == display for ocitv_type R                          *)
+(*  R.-ocitv.-measurable == semiring of sets of open-closed intervals         *)
+(*           hlength f A := f b - f a with the hull of the set of real        *)
```
Comment (CohenCyril) [inline theories/lebesgue_stieltjes_measure.v:29]: This should not be called hlength anymore.

Comment (affeldt-aist) [reply theories/lebesgue_stieltjes_measure.v:29]: This has been renamed to `wlength` for `weight` (`W` is sometimes used in the literature and this seems to correspond to the original idea by Stieltjes, though he may have been using `H` at the time in fact).
The lemmas have been reworked a bit so that
the user can get along only with lemmas about `lebesgue_measure`,
 `wlength` does not appear in proof scripts except in the proof of outer regularity
that exhibits `wlength` on purpose as far as I can see.

**Comment by affeldt-aist** [comment]
Wouah, CI green, thanks @proux01

**Comment by proux01** [comment]
For what?

**Comment by affeldt-aist** [comment]
> For what?

For the constant care to the infrastructure!

File: theories/lebesgue_stieltjes_measure.v (hunk 7 above)
Comment (affeldt-aist) [reply theories/lebesgue_stieltjes_measure.v:49]: comment recorded as issue #1067
